US04617307
5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
A mixture of 85 mg of 5-p-bromophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine and 74 mg of cuprous cyanide in 1 ml of N,N-dimethylformamide is heated under nitrogen at 120° for 11 hours. The reaction mixture is cooled, diluted with 10 ml of water and extracted with ethyl acetate. The organic extracts are dried over sodium sulfate and evaporated. The resulting oil is chromatographed on silica gel with ethyl acetate to yield the title compound, m.p. 117°-118°.

reactant | 5-p-bromophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 85 mg | BrC1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C13H13BrN2
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | 5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H13N3
